US08017607B2
In a manner similar to the method described in Example 11, rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile (84.6 mg, 0.20 mmol) was reacted with 4-cyano-benzoic acid (Aldrich, 35.3 mg, 0.24 mmol), in the presence of HATU (72.0 mg, 0.20 mmol) and iPr2NEt (0.1 mL) in CH2Cl2 (2 mL) at rt for 2 hrs to give rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-1-(4-cyano-benzoyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile (108.5 mg, 98.2%). HRMS (ES+) m/z Calcd for C30H25Cl2F2N3O+H [(M+H)+]: 552.1417, found: 552.1416.

reactant | rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile | 0.20 mmol, 84.6 mg | ClC=1C(=C(C=CC1)C1NCC(C1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)F | C22H22Cl2F2N2
reactant | 4-cyano-benzoic acid | 0.24 mmol, 35.3 mg | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
reactant | HATU | 0.20 mmol, 72.0 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | iPr2NEt | 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-1-(4-cyano-benzoyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile | 108.5 mg, 98.2% | ClC=1C(=C(C=CC1)C1N(CC(C1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(C1=CC=C(C=C1)C#N)=O)F | C30H25Cl2F2N3O
